US04212871
Preparation of 1-methyl-4-(10,11-dihydro-3-ethoxycarbonyl-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine
A solution of 5.0 g 1-methyl-4-(3-carboxy-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene) piperidine hydrochloride in 200 ml of absolute ethanol was treated with 5 ml of boron trifluoride etherate. After stirring and refluxing for 18 hours the ethanol was evaporated in vacuo and the residue was partitioned between saturated aqueous sodium carbonate solution and ether. The ether phase was separated, washed with 3×100 ml of water, dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. The residue, 5.4 g of 1-methyl-4-(10,11-dihydro-3-ethoxycarbonyl-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine, after recrystallization from acetonitrile had m.p. 85°-87° C.

reactant | 1-methyl-4-(3-carboxy-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene) piperidine hydrochloride | 5.0 g | Cl.CN1CCC(CC1)=C1C2=C(CCC3=C1C=C(C=C3)C(=O)O)C=CC=C2
reactant | boron trifluoride etherate | 5 ml | B(F)(F)F.CCOCC
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-methyl-4-(10,11-dihydro-3-ethoxycarbonyl-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | CN1CCC(CC1)=C1C2=C(CCC3=C1C=C(C=C3)C(=O)OCC)C=CC=C2 | C24H27NO2
